US04341718
N-(1-Methylethyl)-3-(3-Chlorophenyl)-2-Oxiranecarboxamide
This compound was prepared from N-(1-methylethyl)-3-chlorocinnamoylcarboxamide (22.4 g.), m-chloroperbenzoic acid (23.6 g.), 4,4'-thiobis(6-tert-butyl-m-cresol) (0.3 g.), and ethylene dichloride as described in Example 7, and purified by recrystallization from ether. The compound melted at 131°-133°, and weighed 14.5 g.

reactant | N-(1-methylethyl)-3-chlorocinnamoylcarboxamide | 22.4 g | CC(C)NC(=O)C(C=CC1=CC(=CC=C1)Cl)=O | C13H14ClNO2
reactant | m-chloroperbenzoic acid | 23.6 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 4,4'-thiobis(6-tert-butyl-m-cresol) | 0.3 g | S(C=1C(=CC(=C(C1)C(C)(C)C)O)C)C=1C(=CC(=C(C1)C(C)(C)C)O)C | C22H30O2S
solvent | ethylene dichloride | C(CCl)Cl | C2H4Cl2
product | N-(1-Methylethyl)-3-(3-Chlorophenyl)-2-Oxiranecarboxamide | CC(C)NC(=O)C1OC1C1=CC(=CC=C1)Cl | C12H14ClNO2
